US04775675
5,5-Dimethyl-2-(4-methylmercaptophenyl)-thiazolidine-4(S)-carboxylic acid
A solution containing 4.48 g (30 mmoles) of D-penicillamine and 3.99 ml (30 mmoles) of 4-methylmercaptobenzaldehyde in 90 ml of 30% aqueous methanol is stirred for 6 hours. The white solid precipitate is filtered out to give 8.26 g (97.1%) of the title product which can be recrystallized from methanol by adding water, m.p.: 150°-152° C., [α]D20 =+74.4° (c=0.516, dimethylsulphoxide).

reactant | D-penicillamine | 30 mmoles, 4.48 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | 4-methylmercaptobenzaldehyde | 30 mmoles, 3.99 ml | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | methanol | 90 ml | CO | CH4O
product | 5,5-Dimethyl-2-(4-methylmercaptophenyl)-thiazolidine-4(S)-carboxylic acid | 8.26 g, 97.1% | CC1([C@@H](NC(S1)C1=CC=C(C=C1)SC)C(=O)O)C | C13H17NO2S2
